2122-08-08 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   77 psychotic with MAT and UTI
   Off [**Last Name (LF) 1686**], [**First Name3 (LF) **] f/u of culture
   loading on dig
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-8**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   425 K/uL
   9.3 g/dL
   116 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.2 mEq/L
   19 mg/dL
   103 mEq/L
   138 mEq/L
   27.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2122-8-8**]  04:50 AM
   WBC
   6.0
   Hct
   27.3
   Plt
   425
   Cr
   0.6
   TropT
   0.03
   Glucose
   116
   Other labs: PT / PTT / INR:15.5/29.4/1.4, CK / CKMB /
   Troponin-T:57//0.03, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   77 F nursing home resident with psychosis and cognitive decline who was
   admitted for R femoral fx s/p repair on [**7-27**] now with intermittent SVT
   to 170's.
   .
   # SVT: Periods of afib, atrial tachycardia and sinus tachy.  Currently
   give titrating up metoprolol as BP tolerates but BP marginal.  Consider
   amio or digoxin.
   -- cardiology following
   -- telemetry
   -- titrate up bblockers as BP tolerates
   -- digoxin per card's: 0.25 mg x 4 doses q6 H, then 0.125 mg daily
   thereafter
   .
   # Troponins: elevated while she was on the floor likely from demand
   with SVT.  No h/o CAD.  Troponins have trended down.
   -- asa
   -- continue to monitor
   -- nuclear stress test when clinicallyt more stable
   .
   # PE's and DVT: Discovered in search for etiology for SVT.
   -- refuses Coumadin
   -- Lovenox
   .
   # Femoral fracture: wound clean without signs of infection
   -- ortho following
   -- hct stable; had hct drop in setting of hip fx early in hospital
   course
   -- Lovenox
   .
   # Psychosis: Unclear etiology.
   -- psychiatry following
   -- avoid benzo's, anticholingergics, antihistamines, opiates
   -- use low dose ripserdal if necessary
   .
   # Sacral Decub: wound care.
   -- gaymar overlay and coricaid ointment
   .
   # GERD: PPI
   .
   # FEN: replete 'lytes prn, SSI
   # PPX: Lovenox, PPI, bowel regimen
   # Code: DNR/DNI Confirmed [**2122-8-7**] with Guardian. Pressors/IV meds
   okay.
   # Dispo: deferred
   # Communication: [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 5153**] (guardian: cell [**Telephone/Fax (1) 5154**] or
   [**Telephone/Fax (1) 5155**], home [**Telephone/Fax (1) 5156**]), Social worker [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 3537**]
   ([**Telephone/Fax (1) 4807**])
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2122-08-08 19:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  cognitive decline, transferred to MICU for SVT to
   170s
   24 Hour Events:
   Digoxin loaded
   Not taking PO meds reliably, so low BP with tachycardia is being
   titrated with IV metoprolol as per cards
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-8**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   116/47 (104-172/33-66)
   HR 106 (93-154)
   R 21 (14-29)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   Room Air
   Physical Examination
   Gen: Non-conversant female in NAD, sitting up in bed
   HEENT: NCAT, PERRL, EOMI
   CV: tachycardic, irregular, harsh loud 5/6 systolic murmur heard
   loudest at the right USB but heard throughout chest
   Abd: soft, NT, + BS
   Ext: no CCE, right thigh with 5-6 staples, incision CDI, no erythema
   Labs / Radiology
   425 K/uL
   9.3 g/dL
   116 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.2 mEq/L
   19 mg/dL
   103 mEq/L
   138 mEq/L
   27.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2122-8-8**]  04:50 AM
   WBC
   6.0
   Hct
   27.3
   Plt
   425
   Cr
   0.6
   TropT
   0.03
   Glucose
   116
   Other labs: PT / PTT / INR:15.5/29.4/1.4, CK / CKMB /
   Troponin-T:57//0.03, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   77 F nursing home resident with psychosis and cognitive decline who was
   admitted for R femoral fx s/p repair on [**7-27**] now with intermittent SVT
   to 170's.
   .
   # SVT: Periods of afib, atrial tachycardia and sinus tachy.  Currently
   give titrating up metoprolol as BP tolerates but BP marginal.  Digoxin
   loading.
   -- cardiology following
   -- telemetry
   -- titrate up bblockers as BP tolerates
   -- digoxin per card's: 0.25 mg x 4 doses q6 H, then 0.125 mg daily
   thereafter
   .
   # Troponins: elevated while she was on the floor likely from demand
   with SVT.  No h/o CAD.  Troponins have trended down.
   -- asa
   -- continue to monitor
   -- nuclear stress test when clinicallyt more stable
   .
   # PE's and DVT: Discovered in search for etiology for SVT.
   -- refuses Coumadin
   -- Lovenox
   .
   # Femoral fracture: wound clean without signs of infection
   -- ortho following
   -- hct stable; had hct drop in setting of hip fx early in hospital
   course
   -- Lovenox (4 week indication for fx but much longer course will be
   required for PE)
   .
   # Psychosis: Unclear etiology.
   -- psychiatry following
   -- avoid benzo's, anticholingergics, antihistamines, opiates
   -- use low dose ripserdal if necessary
   .
   # Sacral Decub: wound care.
   -- gaymar overlay and coricaid ointment
   .
   # GERD: PPI
   .
   # FEN: replete 'lytes prn, SSI
   # PPX: Lovenox, PPI, bowel regimen
   # Code: DNR/DNI Confirmed [**2122-8-7**] with Guardian. Pressors/IV meds
   okay.
   # Dispo: deferred
   # Communication: [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 5153**] (guardian: cell [**Telephone/Fax (1) 5154**] or
   [**Telephone/Fax (1) 5155**], home [**Telephone/Fax (1) 5156**]), Social worker [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 3537**]
   ([**Telephone/Fax (1) 4807**])
   .
   .

2122-08-09 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -remained psychotic and non-conversant, but appropriate at times (eg:
   asking for Maalox).  Refuses po medicines, however, she will take them
   if they are ground and mixed into applesauce.
   -rates trended down - 70s-90s
   -increased IV metoprolol from 7.5 to 10 mg q4, am digoxin level was
   within range as per cards
   - Plan to call out to floor today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-8-9**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tc 99
   Tm 100.6 (rectally)
   HR 92 (75-109)
   BP 107/47 (120s-90s/50s-30s)
   RR 20 (13-35)
   SaO2 95%
                  Total In:
                                                                       950
                                                                       120
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   ABG: ////
   Physical Examination
   Gen: Non-conversant female in NAD, sleeping
   HEENT: NCAT
   CV: irregular, harsh loud 5/6 systolic murmur
   Abd: soft, NT, + BS
   Ext: right leg larger than left with slight yellow hue,  right thigh
   with 5-6 staples, incision CDI, no erythema
   Labs / Radiology
   473 K/uL
   9.2 g/dL
   113 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.4 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   27.8 %
   6.3 K/uL
        [image002.jpg]
   Ca 8.8 Mg 2.1 Phos 2.5
                             [**2122-8-8**]  04:50 AM
   WBC
   6.0
   Hct
   27.3
   Plt
   425
   Cr
   0.6
   TropT
   0.03
   Glucose
   116
   Dig Level: 1.6
   Urine cultures:
   [**7-31**] pan [**Last Name (un) **] proteus, GPC
   [**8-5**] coag neg staph
   [**8-7**] prelim- gram positive
   CTA ([**8-6**]):
   IMPRESSION:
   1. Acute pulmonary embolism in posterior basal right lower lobe
   segmental and
   subsegmental arteries and in subsegmental lingular artery.
   2. New small right pleural effusion with bibasilar atelectasis,
   possibly
   related with acute pulmonary embolism.
   3. Unchanged biapical scarring and mild cylindrical bronchiectasis at
   the
   left apex.
   4. Unchanged coronary artery calcifications. Aortic valvular
   calcifications
   are of unknown hemodynamic significance.
   5. Extensive degenerative changes of the spine, kyphosis and
   compression
   fractures of the mid thoracic spine.
   Assessment and Plan
   77 F nursing home resident with psychosis and cognitive decline who was
   admitted for R femoral fx s/p repair on [**7-27**] requiring transfer to MICU
   x 2 for SVT.
   .
   # SVT: Loaded with dig and IV beta blockers with good results
   -- Dig level 1.6 today.  Start 0.125mg/day tomorrow
   -- Change IV metoprolol to po.  Will crush pills and put into
   applesauce.
   -- cardiology following
   -- telemetry
   # UTI: on [**8-5**] culture showed coag neg staph.  [**8-7**] culture prelim shows
   gram pos
   -- Started bactrim on [**8-9**]
   .
   # Troponins: elevated while she was on the floor likely from demand
   with SVT.  No h/o CAD.  Troponins have trended down.
   -- asa
   -- continue to monitor
   -- nuclear stress test when clinicallyt more stable
   .
   # PE's and DVT: Discovered in search for etiology for SVT.
   -- refuses Coumadin
   -- Lovenox long term- both for fracture and for PE
   .
   # Femoral fracture: wound clean without signs of infection
   -- ortho following
   -- hct stable; had hct drop in setting of hip fx early in hospital
   course
   -- Lovenox (4 week indication for fx but much longer course will be
   required for PE)
   .
   # Psychosis: Unclear etiology.
   -- psychiatry following
   -- avoid benzo's, anticholingergics, antihistamines, opiates
   -- use low dose ripserdal if necessary
   .
   # Sacral Decub: wound care.
   -- gaymar overlay and coricaid ointment
   .
   # GERD: PPI
   # FEN: replete 'lytes prn, SSI
   # PPX: Lovenox, PPI, bowel regimen
   # Code: DNR/DNI Confirmed [**2122-8-7**] with Guardian. Pressors/IV meds
   okay.
   # Dispo: to floor today
   # Communication: [**First Name8 (NamePattern2) 208**] [**Last Name (NamePattern1) 5153**] (guardian: cell [**Telephone/Fax (1) 5154**] or
   [**Telephone/Fax (1) 5155**], home [**Telephone/Fax (1) 5156**]), Social worker [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 3537**]
   ([**Telephone/Fax (1) 4807**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: